US04728663
6,8-Dichloro-N-[3-(1H-imidazol-1-yl)propyl]benz[cd]indol-2-amine
A mixture of 5.0 g of 6,8-dichloro-benz[cd]indole-2-thiol, 35 ml of dimethylformamide, 2.6 g of 3-(1H-imidazol-yl)propanamine and 6.3 g of mercuric acetate was reacted as described in Example 1, giving 2.95 g of the desired product, mp 182°-183° C.

reactant | 6,8-dichloro-benz[cd]indole-2-thiol | 5.0 g | ClC=1C=2C3=C(C(=NC3=C(C1)Cl)S)C=CC2 | C11H5Cl2NS
reactant | 3-(1H-imidazol-yl)propanamine | 2.6 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 6,8-Dichloro-N-[3-(1H-imidazol-1-yl)propyl]benz[cd]indol-2-amine | 2.95 g | ClC=1C=2C3=C(C(=NC3=C(C1)Cl)NCCCN1C=NC=C1)C=CC2 | C17H14Cl2N4
